Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Hematemesis, N/V/Abdominal Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o F w/ h/o eosinophilic esophagitis/gastritis, PUD presents 
with severe nausea, vomiting, abd pain and hematemesis. She has 
had multiple admission ofr n/v/abd pain but claims that this 
episode is much worse than before. She has not been able to 
eat/drink anything. She has had atleast 5 episodes of 
hematemesis in the last 3 days along with ___. She also says 
that this time around her epigastric pain is radiating to the 
back which is unusual for her. She has been feel very weak and 
dizzy for the past few days.
.
ED: Her vitals were stable. Her HCT was stable. She got a CT Abd 
which did not show free air; however evaluation of the bowel, 
particularly the posterior wall of the duodenum was limited due 
to extensive high density barium.
 
Past Medical History:
eosinophilic esophagitis/gastritis
Peripheral eosinophilia
PUD with negative H. pylori
Anemia NOS
 
Social History:
___
Family History:
Father with ___.  He also has CAD and PVD.  Mother's side of 
family with breast cancer and ovarian cancer (aunt at age ___.  
No FH of celiac.  No FH of leukemia, lymphoma, MEN cancers.
 
Physical Exam:
ROS:
GEN: - fevers, + Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: + Nausea, + Vomitting, + Abdominal Pain, + Hematemesis, + 
___, - Diarhea
Constipation, - Hematochezia, Poor Intake x3 days
PULM: - Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, + dizziness, - Vertigo, - 
Headache
.
PHYSICAL EXAM:
VS: 97.4, 98/58, 74, 18, 98%/RA, 239 lbs
GEN: appears in mild distress ___ abdominal pain
Eyes: PERRLA, EOMI, no conjuctival injection, anicteric
Neck: supple
ENT: no sinus tenderness, dry MM, op without exudate or lesions, 
no supraclavicular or cervical lymphadenopathy
Respiratory: CTA bilat, no wheeze or crackles
Cardiovascular: RRR, nl S1, S2; ___ SEM at LUSB
Gastrointestinal: diffuse tenderness throughout abdomen with 
maximal tenderness in epigastric and RUQ region. No 
guarding/rigidity elicited. NABS. No masses or 
hepatosplenomegaly
Musculoskeletal/extremities: no cyanosis, clubbing; trace ___ 
edema
Skin/nails: warm, no rashes/no jaundice/no splinters
Neurological: AAOx3.  Cn II-XII intact.  ___ strength 
throughout.  No focal neurologic deficits
Heme/Lymph: no cervical or supraclavicular lymphadenopathy
Back: No CVA tenderness
 
Pertinent Results:
___ 05:05PM BLOOD WBC-14.0*# RBC-3.91* Hgb-10.7* Hct-32.7* 
MCV-83# MCH-27.4 MCHC-32.9 RDW-14.8 Plt ___
___ 05:05PM BLOOD Neuts-39* Bands-0 Lymphs-17* Monos-8 
Eos-36* Baso-0 ___ Myelos-0
___ 05:05PM BLOOD Glucose-93 UreaN-11 Creat-0.8 Na-138 
K-3.5 Cl-104 HCO3-25 AnGap-13
___ 05:05PM BLOOD ALT-72* AST-284* LD(LDH)-420* 
AlkPhos-204* Amylase-134*
___ 05:05PM BLOOD Lipase-600*
___ 05:05PM BLOOD Albumin-3.8 Cholest-PND

.
Small Bowel Follow through ___
Thick folds in the duodenum and jejunum with otherwise 
unremarkable
.
Chest Xray ___
No pneumothorax or pneumoperitoneum. 
.
CT Abdomen ___
No evidence of free intraperitoneal air. Limited exam due to 
streak artifact from retained barium from small bowel 
follow-through performed earlier on the day.

 
Brief Hospital Course:
___ y/o F w/ h/o eosinophilic esophagitis/gastritis, PUD now with 
worsening n/v/abd pain, hematemesis, melena and acute 
pancreatitis
.
# Acute pancreatitis: with severe epigastric pain radiating to 
back, leukocytosis, elevated lipase of 600.  Regarding etiology, 
may involve progression of her eosinophilic GI disease.  No 
evidence of gallstones.  
The patient received aggressive IVF, solumedrol 20 mg IV qd, and 
pain control with complete improvement in her lipase.  Despite 
her lipase being completely normal for three days, the patient 
continued to c/o of significant abd pain. Of note, her outpt 
oxycontin 80 mg po bid had been held.  This was restarted at 20 
mg po bid, during which the pt was noted to be oversedated, 
pooling her oral secretions.  
On day of discharge, pt still c/o abd pain but had tolerated po 
with completely normal lipase.
Pt instructed to uptitrate her oxycontin per her PCP but told by 
me that given our observations of oversedation in the hospital, 
I did not feel comfortable discharging her on her prior outpt 
oxycontin dose.

# Upper GI Bleed:  Hct remained stable, per GI, no acute 
indication for EGD,  Continued on protonix bid. 

IgG Deficiency:  Pt received IVIG 40 gram infusion on ___.  
Patient to receive monthly infusions.

# Epigastric Pain: uses Oxycodone/Oxycontin.  Please refer to 
discussion above.
.
# Eosinophilic esophagitis/gastritis/enteritis:  Seen by GI and 
allergy.  Patient started on IV solumedrol 20 mg qd with 
transition to budenoside po tid on d/c.  Script written by Dr. 
___ to get insurance coverage for med before the end of the 
month.

# h/o steroid pyschosis/anxiety d/o- cont Diazepa, Zyprexa, 
Ambien
.
# code- full  

 
Medications on Admission:
DIAZEPAM 5 mg Tablet BID
OLANZAPINE 2.5 mg
OXYCODONE
OXYCONTIN
PANTOPRAZOLE 80 mg BID
DOCUSATE 
FERROUS SULFATE
 
Discharge Medications:
1. Entocort EC 3 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO three times a day.
Disp:*90 Capsule, Sust. Release 24 hr(s)* Refills:*2*
2. IVIG  Sig: One (1) gms  once a month: To be administered 
Monthly, Last dose ___ was 40 grams.  
3. Olanzapine 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Diazepam 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO twice a day.  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.  
7. OxyContin 20 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO twice a day: NOTE: ___ came in 
on 80 mg po bid, dose decreased to 20 bid due to pt appearing 
oversedated (even on lower dose). Outpt titration per PCP.  
8. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every ___ hours: 
Continue outpt oxycodone dosing.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis, Acute
Eosinophilic esophagitis, gastritis, enteritis
IgG Deficiency
PUD
Steroid Psychosis
Anemia
 
Discharge Condition:
Vital Signs Stable, Tolerating Po
 
Discharge Instructions:
Return to ED if having fevers, chills, bloody vomitting, bloody 
stools.
 
Followup Instructions:
___